US05658491
Preparation of 5-Octyl-2-[4-(4-(4-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2,3,3,4,4-hexafluorobutoxy)butoxy)phenyl]pyrimidine
The title compound was prepared essentially as in Example I by combining 4-(4-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2,3,3,4,4-hexafluorobutoxy)butyl bromide (25.6 g, 38.5 mmol; prepared by combining 1,4-dibromobutane and 2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethanol) with 5-octyl-2-(4-hydroxyphenyl)pyrimidine (10 g, 35 mmol). The resulting product was further purified by recrystallization from heptane, followed by Kugelrohr distillation (b.p. 200°-210° C. at 0.4 torr; yield of 20.4 g).

reactant | 4-(4-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2,3,3,4,4-hexafluorobutoxy)butyl bromide | 38.5 mmol, 25.6 g | FC(C(C(OC(C(OC(C(C(COCCCCBr)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C14H10BrF19O3
reactant | 5-octyl-2-(4-hydroxyphenyl)pyrimidine | 35 mmol, 10 g | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C18H24N2O
product | 5-Octyl-2-[4-(4-(4-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2,3,3,4,4-hexafluorobutoxy)butoxy)phenyl]pyrimidine | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCOCC(C(C(F)(F)OC(C(OC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C32H33F19N2O4
